US07279478B2
Step 1 (4-bromophenyl)(thien-3-yl)methanol
To a solution of 1.5M BuLi in hexanes (3.5 mL, 5.25 mmol) in THF (6.5 mL) cooled to −78° C. was added 3-bromothiophene dropwise (469 μL, 5.0 mmol). The mixture was stirred for 30 minutes and a 1.0M solution of 4-bromobenzaldehyde in THF was slowly added (5.5 mL, 5.5 mmol). The reaction was warmed to 0° C. and aged for 1 hour. The mixture was then poured into a saturated aqueous solution of NH4Cl. The resulting mixture was extracted 3 times with ethyl acetate and the organic layers were washed with brine, dried and evaporated. The crude residue was chromatographed on silica gel using a gradient of 10-25% ethyl acetate in hexanes to afford the title compound.

reactant | BuLi | 1.5M | [Li]CCCC
reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 6.5 mL | C1CCOC1 | C4H8O
product | (4-bromophenyl)(thien-3-yl)methanol | BrC1=CC=C(C=C1)C(O)C1=CSC=C1 | C11H9BrOS
